US06545049B1
To a solution of 6,6,9,9-tetramethyl-1,2,3,4,6,7,8,9-octahydrobenzo[g]quinoline (200 mg, 0.823 mmol) in THF (4 mL) was added NaH (30 mg, 1.2 mmol) in one portion at ambient temperature. To this solution was added methyl 4-(bromomethyl)-benzoate (377 mg, 1.6 mmol) in THF (8 mL). The mixture was then heated at 60° C. for 8 h, cooled to ambient temperature, quenched with aqueous saturated NH4Cl (20 mL), extracted with EtOAc (100 mL), dried (MgSO4), concentrated, and purified by column chromatography (10% ether in hexanes) to afford 4-(6,6,9,9-tetramethyl-3,4,6,7,8,9-hexahydro-2H-benzo[g]quinolin-1-ylmethyl)-benzoic acid methyl ester 130 mg (40%): 1H NMR (400 MHz, CDCl3) δ 7.98(½ ABq, 2H, J=9.0 Hz, ArH), 7.38(½ ABq, 2H, J=9.0 Hz, ArH), 6.91(s, 1H, ArH), 6.3(s, 1H, ArH) 4.45(s, 2H, CH2), 3.90(s, 3H, CH3), 3.2(t, 2H, J=5.4 Hz, ring CH2), 2.79(t, 2H, J=6.4 Hz, ring CH2), 2.02(m, 2H, ring CH2), 1.59(s, 4H, 2CH2), 1.22(s, 6H, 2CH3), 1.06(s, 6H, 2CH3).

reactant | 6,6,9,9-tetramethyl-1,2,3,4,6,7,8,9-octahydrobenzo[g]quinoline | 0.823 mmol, 200 mg | CC1(CCC(C2=C1C=C1CCCNC1=C2)(C)C)C | C17H25N
reactant | NaH | 1.2 mmol, 30 mg | [H-].[Na+]
reactant | methyl 4-(bromomethyl)-benzoate | 1.6 mmol, 377 mg | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-(6,6,9,9-tetramethyl-3,4,6,7,8,9-hexahydro-2H-benzo[g]quinolin-1-ylmethyl)-benzoic acid methyl ester | 130 mg, 40% | COC(C1=CC=C(C=C1)CN1CCCC2=CC3=C(C=C12)C(CCC3(C)C)(C)C)=O | C26H33NO2
